US04420424
(D) Z-Lys-Arg-Glu-Val-Tyr-OMe acetate
1.2 g (1.1 mmoles) of Z-Lys(Boc)-Arg-Glu(OBut)-Val-Tyr(But)-OMe.HCl are dissolved in 10 ml of 90 percent strength trifluoroacetic acid. The mixture is allowed to stand for one hour at room temperature and is concentrated. The residue is partitioned between 150 ml of water and 100 ml of diethyl ether. The aqueous phase is stirred with a weakly basic ion exchanger in the acetate form. The exchanger is filtered off and the filtrate is freeze-dried. Yield 880 mg (89%), [α]D23 =-45.8° (c=1, in water).

reactant | Z-Lys(Boc)-Arg-Glu(OBut)-Val-Tyr(But)-OMe.HCl | 1.1 mmoles, 1.2 g | N([C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1.Cl
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | Z-Lys-Arg-Glu-Val-Tyr-OMe acetate | N([C@@H](CCCCN)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CCC(O)=O)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)OC)C(=O)OCC1=CC=CC=C1.CC(=O)O | InChI=1S/C40H59N9O11.C2H4O2/c1-24(2)33(37(56)47-31(38(57)59-3)22-25-14-16-27(50)17-15-25)49-36(55)30(18-19-32(51)52)46-34(53)28(13-9-21-44-39(42)43)45-35(54)29(12-7-8-20-41)48-40(58)60-23-26-10-5-4-6-11-26;1-2(3)4/h4-6,10-11,14-17,24,28-31,33,50H,7-9,12-13,18-23,41H2,1-3H3,(H,45,54)(H,46,53)(H,47,56)(H,48,58)(H,49,55)(H,51,52)(H4,42,43,44);1H3,(H,3,4)/t28-,29-,30-,31-,33-;/m0./s1
